US05523302
36a) Methyl 5-formyl-2-(1-prop-2-enyloxy)benzoate
Methyl 5-formylsalicylate (3.3 g, 18 mmol), allyl bromide (1.7 mL, 20 mmol), and potassium carbonate (2.8 g, 20 mmol) were stirred at room temperature in DMF (20 mL) overnight. After concentration, the mixture was diluted with EtOAc and extracted with water (5×), then brine. After drying (MgSO4), solvent was removed to give a yellow solid (4.2 g). 1H-NMR(300 MHz, CDCl3): 9.92 (s, 1H), 8.35 (d, 1H, J=2 Hz), 8.00 (dd, 1H, J=9,2 Hz), 7.09 (d, 1H, J=9 Hz), 6.13-6.01 (m, 1H), 5.58-5.34 (m, 2H), 4.75-4.73 (m, 2H), 3.93 (s, 3H). Anal. Calc'd for C12H12O4 : C, 65.45; H, 5.49; Found: C, 65.10; H, 5.36.

reactant | Methyl 5-formylsalicylate | 18 mmol, 3.3 g | C(=O)C1=CC=C(C(C(=O)OC)=C1)O | C9H8O4
reactant | allyl bromide | 20 mmol, 1.7 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 5-formyl-2-(1-prop-2-enyloxy)benzoate | 4.2 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OCC=C | C12H12O4
